US04416876
Sodium 4-(4,4-dimethyl-4-sila-n-hexadecylamino)-benzoate
To a solution of 6.79 g (16.7 mmol) of 4-(4,4-dimethyl-4-sila-hexadecylamino)benzoic acid in 10 ml of ethanol is added an aqueous solution of 1.5 g (17.8 mmol) of sodium bicarbonate (in about 50 ml of water). The mixture is heated to 60° and the resultant clear solution evaporated, under vacuum, to obtain the title product as a white crystalline solid, m.p. above 300°.

reactant | 4-(4,4-dimethyl-4-sila-hexadecylamino)benzoic acid | 16.7 mmol, 6.79 g | C[Si](CCCNC1=CC=C(C(=O)O)C=C1)(CCCCCCCCCCCC)C | C24H43NO2Si
reactant | sodium bicarbonate | 17.8 mmol, about 50 ml, 1.5 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Sodium 4-(4,4-dimethyl-4-sila-n-hexadecylamino)-benzoate | C[Si](CCCNC1=CC=C(C(=O)[O-])C=C1)(CCCCCCCCCCCC)C.[Na+] | InChI=1S/C24H43NO2Si.Na/c1-4-5-6-7-8-9-10-11-12-13-20-28(2,3)21-14-19-25-23-17-15-22(16-18-23)24(26)27;/h15-18,25H,4-14,19-21H2,1-3H3,(H,26,27);/q;+1/p-1
